US09428470B2
C) tert-Butyl 3-(5-(benzyloxy)-2-(cyclohex-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of tert-butyl 3-(5-(benzyloxy)-2-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (200 mg), 2-(cyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (114 mg), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride (26.8 mg), a 2 M aqueous cesium carbonate solution (0.366 mL), and DME (2 mL) was stirred overnight at 90 C in a nitrogen atmosphere. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (118 mg).

reactant | tert-butyl 3-(5-(benzyloxy)-2-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 200 mg | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)Br | C27H32BrNO6
reactant | 2-(cyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 114 mg | C1(=CCCCC1)B1OC(C(O1)(C)C)(C)C | C12H21BO2
reactant | cesium carbonate | 2 M, 0.366 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DME | 2 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 26.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | tert-Butyl 3-(5-(benzyloxy)-2-(cyclohex-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 118 mg | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)C1=CCCCC1 | C33H41NO6
